US09328118B2
Trifluoroacetic acid (40 mL) was added to a solution of tert-butyl 4-(2-{[5-(2-cyano-9-methyl-9H-purin-6-yl)-3-(trifluoromethyl)pyridin-2-yl]oxy}ethyl)piperidine-1-carboxylate (5.8 g) in CH2Cl2 (80 mL)-acetonitrile (20 mL) at room temperature, and the mixture was stirred at the same temperature for 1 hour. The reaction mixture was concentrated under reduced pressure, and CH2Cl2 (10 mL) was added to the residue. A 4 M solution of hydrogen chloride in EtOAc (10 mL) was added to the mixture at room temperature, and the resultant mixture was stirred at the same temperature for 10 minutes. EtOAc (5 mL) and disiopropyl ether (150 mL) were added to the reaction mixture at room temperature, and the resultant mixture was stirred for 30 minutes. The precipitate was collected by filtration, whereby 9-methyl-6-{6-[2-(piperidin-4-yl)ethoxy]-5-(trifluoromethyl)pyridin-3-yl}-9H-purine-2-carbonitrile monohydrochloride (5.1 g) was obtained as a solid.

reactant | Trifluoroacetic acid | 40 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 4-(2-{[5-(2-cyano-9-methyl-9H-purin-6-yl)-3-(trifluoromethyl)pyridin-2-yl]oxy}ethyl)piperidine-1-carboxylate | 5.8 g | C(#N)C1=NC(=C2N=CN(C2=N1)C)C=1C=C(C(=NC1)OCCC1CCN(CC1)C(=O)OC(C)(C)C)C(F)(F)F | C25H28F3N7O3
reactant | acetonitrile | 20 mL | C(C)#N | C2H3N
reactant | CH2Cl2 | 80 mL | C(Cl)Cl | CH2Cl2
product | 9-methyl-6-{6-[2-(piperidin-4-yl)ethoxy]-5-(trifluoromethyl)pyridin-3-yl}-9H-purine-2-carbonitrile monohydrochloride | 5.1 g | Cl.CN1C2=NC(=NC(=C2N=C1)C=1C=NC(=C(C1)C(F)(F)F)OCCC1CCNCC1)C#N | InChI=1S/C20H20F3N7O.ClH/c1-30-11-27-17-16(28-15(9-24)29-18(17)30)13-8-14(20(21,22)23)19(26-10-13)31-7-4-12-2-5-25-6-3-12;/h8,10-12,25H,2-7H2,1H3;1H
